US07470664B2
N-[(Hept-6-en-1-yloxy)carbonyl]-L-norleucine was prepared according to the procedure for N-[(pent-4-en-1-yloxy)carbonyl]-L-norleucine by using 6-heptenol instead of 4-pentenol. LRMS (ESI) m/z 272 [(M+H)+; calcd for C14H26NO4: 272].

reactant | N-[(pent-4-en-1-yloxy)carbonyl]-L-norleucine | C(CCC=C)OC(=O)N[C@@H](CCCC)C(=O)O | C12H21NO4
reactant | 6-heptenol | C(CCCCC=C)O | C7H14O
product | N-[(Hept-6-en-1-yloxy)carbonyl]-L-norleucine | C(CCCCC=C)OC(=O)N[C@@H](CCCC)C(=O)O | C14H25NO4
